US09029549B2
Cyclohexyl 2-(1-{2-[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]ethanethioyl}piperidin-4-yl)-1,3-thiazole-4-carboxylate (I-854)
At room temperature, 2,4-bis(4-methoxyphenyl)-1,3,2,4-dithiadiphosphetane 2,4-disulfide (88 mg) is added to a solution of cyclohexyl 2-(1-{[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazole-4-carboxylate (I-811, 200 mg) in 1,2-dimethoxyethane (1 ml) and chloroform (0.4 ml). The reaction mixture is stirred at 70-80° C. overnight. After removal of the solvent under reduced pressure, the residue is purified chromatographically. This gives cyclohexyl 2-(1-{2-[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]ethanethioyl}piperidin-4-yl)-1,3-thiazole-4-carboxylate (80 mg, 39%).

reactant | 2,4-bis(4-methoxyphenyl)-1,3,2,4-dithiadiphosphetane 2,4-disulfide | 88 mg | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
reactant | cyclohexyl 2-(1-{[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazole-4-carboxylate | 200 mg | FC(C1=NN(C(=C1)C(F)F)CC(=O)N1CCC(CC1)C=1SC=C(N1)C(=O)OC1CCCCC1)F | C22H26F4N4O3S
solvent | 1,2-dimethoxyethane | 1 ml | COCCOC | C4H10O2
solvent | chloroform | 0.4 ml | C(Cl)(Cl)Cl | CHCl3
product | Cyclohexyl 2-(1-{2-[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]ethanethioyl}piperidin-4-yl)-1,3-thiazole-4-carboxylate | FC(C1=NN(C(=C1)C(F)F)CC(=S)N1CCC(CC1)C=1SC=C(N1)C(=O)OC1CCCCC1)F | C22H26F4N4O2S2
